US20010014737A1
a) 4-Bromo3-bromomethylanisole
A mixture of 2-bromo-5-methoxytoluene (20 g, 0.10 mol), N-bromosuccinimide (19.6 g, 0.11 mol), benzoyl peroxide (1 g, 4 mmol), and methylene chloride (200 mL) was irradiated for 18 hr with a flood lamp to effect gentle reflux. The mixture was then cooled to −10° C. for several hours and the solution was decanted away from the precipitated succinimide. The solution was concentrated and the residue was crystallized from chloroform/hexane to give the title compound (19.7 g, 70%) as pale yellow prisms: 1H NMR (CDCl3) δ7.45 (d, J=8.9 Hz, 1 H), 6.99 (d, J=3 Hz, 1 H), 6.74 (dd, J=8.9, 3 Hz, 1 H), 4.55 (s, 2 H) 3.80 (s, 3 H).

reactant | 2-bromo-5-methoxytoluene | 0.10 mol, 20 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | N-bromosuccinimide | 0.11 mol, 19.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 4 mmol, 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo3-bromomethylanisole | 19.7 g, 70% | BrC1=C(C=C(C=C1)OC)CBr | C8H8Br2O
